US07902201B2
c) 3-(4-Fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester
To a solution of (E)- and/or (Z)-N-hydroxy-4-fluoro-benzenecarboximidoyl chloride (50 g, 241 mmol) in diethylether (1 L) was added a solution of ethyl 3-(N,N-dimethylamino)acrylate (87 mL, 601 mmol) and triethylamine (49 mL, 349 mmol) in diethylether (1 L). The resulting mixture was then stirred for 14 h at room temperature and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 4:1) afforded the title product (50.2 g, 88%) which was obtained as a light yellow solid. MS: m/e=236.1 [M+H]+.

reactant | (Z)-N-hydroxy-4-fluoro-benzenecarboximidoyl chloride | 241 mmol, 50 g | O\N=C(\C1=CC=C(C=C1)F)/Cl | C7H5ClFNO
reactant | ethyl 3-(N,N-dimethylamino)acrylate | 601 mmol, 87 mL | CN(C)C=CC(=O)OCC | C7H13NO2
reactant | triethylamine | 349 mmol, 49 mL | C(C)N(CC)CC | C6H15N
solvent | diethylether | 1 L | C(C)OCC | C4H10O
solvent | diethylether | 1 L | C(C)OCC | C4H10O
product | 3-(4-Fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 50.2 g, 88% | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)F | C12H10FNO3
